US05166367
7-[3-[[(2.3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]methylamino]propoxy]-2H-1-benzopyran-2-one
7-[3-[[(2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride (2.2 g, 5.0 mmole) was dissolved in 100 ml of DMF and 700 mg (5.0 mmole) of methyl iodide added, followed by 2.6 g (20 mmole) of diisopropylethylamine. The mixture was heated at 80° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed in vacuum and replaced with 300 ml of dichloromethane. The mixture was washed with 300 ml portions of saturated aqueous sodium bicarbonate, saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated in vacuum. The residue was purified by column chromatography on 100 g of silica gel using chloroform as eluant and crystallized from isopropanol with addition of 2.5 ml of 4N isopropanolic HCl to give 0.20 g of the title compound as a monohydrochloride, m.p. 176°-178° C.

reactant | 7-[3-[[(2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride | 5.0 mmole, 2.2 g | Cl.COC=1C=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C1
reactant | methyl iodide | 5.0 mmole, 700 mg | CI | CH3I
reactant | diisopropylethylamine | 20 mmole, 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2.3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]methylamino]propoxy]-2H-1-benzopyran-2-one | 0.20 g | COC=1C=CC2=C(OC(CO2)CN(CCCOC2=CC3=C(C=CC(O3)=O)C=C2)C)C1 | C23H25NO6
